US03998894
A solution containing 90 parts of styrene, 174 parts of m-chlorostyrene and 126 parts of m-chloroethylbenzene is added to 722 parts of 93 per cent strength by weight phosphoric acid at 35° to 40° C over 5 hours. After completion of the addition, the emulsion is stirred for 2 hours at 35° to 40° C. The organic phase is separated off and washed with 200 parts of 3 per cent strength by weight sodium hydroxide solution. Fractional distillation gives 27 parts of 1-methyl-3-phenylindan, 71 parts of 1-methyl-3-(m-chloro)-phenylindan (b.p. 168° to 172° C (10 mm), nD25 : 1.5872) and 23 parts of 1-methyl-3-(m-chloro)-phenyl-6-chloroindan (b.p. 197° to 204° C (10 mm)).

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | m-chlorostyrene | ClC=1C=C(C=C)C=CC1 | C8H7Cl
reactant | m-chloroethylbenzene | ClCCC=1C=CC=CC1 | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
